US09062013B2
2,2-Dimethyl-trans-3-phenyl-N-(pyridin-4-yl)cyclopropanecarboxamide
2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid (250 mg, 1.31 mmol) and 4-aminopyridine (123 mg, 1.31 mmol) were reacted as described under General Procedure D to furnish the title compound (326 mg, 93%) as a white foam. 1H NMR (300 MHz, CDCl3) δ 8.48-8.45 (m, 2H), 8.35 (br s, 1H), 7.63-7.60 (m, 2H), 7.31-7.16 (m, 5H), 2.87 (d, J=5.7 Hz, 1H), 1.96 (d, J=5.7 Hz, 1H), 1.40 (s, 3H), 0.97 (s, 3H). ESIMS m/z [M+H]+ 267.1.

reactant | 2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid | 1.31 mmol, 250 mg | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C | C12H14O2
reactant | 4-aminopyridine | 1.31 mmol, 123 mg | NC1=CC=NC=C1 | C5H6N2
product | 2,2-Dimethyl-trans-3-phenyl-N-(pyridin-4-yl)cyclopropanecarboxamide | 326 mg, 93% | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)NC1=CC=NC=C1)C | C17H18N2O
